US07977351B2
5-Fluoro-3-(2-morpholin-4-ylmethyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (113 mg, 0.75 mmol.) in THF (1 mL) is placed under an argon atmosphere cooled in an ice bath. A solution of lithium bis(trimethylsilyl)amide (2 mL of a 1M solution in THF, 2 mmol) is added slowly at 0° C. and the resulting solution is stirred for 10 min. The ice-bath is removed and a solution of 2-morpholin-4-ylmethyl-7H-furo[3,4-b]pyridin-5-one (120 mg, 0.5 mmol) in THF (2 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h and then poured into a 10% aqueous HCl solution. The resulting solution is stirred for 48 h at room temperature. The solid which precipitated from solution is collected by filtration and washed sequentially with small volumes of MeOH, EtOAc, Et2O (3×5 mL). The residual solid is purified by chromatography (silica gel, 5% MeOH in EtOAc). The product containing fractions are concentrated to give the title compound as a yellow solid (65 mg, 35%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.75 mmol, 113 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-morpholin-4-ylmethyl-7H-furo[3,4-b]pyridin-5-one | 0.5 mmol, 120 mg | N1(CCOCC1)CC1=CC=C2C(=N1)COC2=O | C12H14N2O3
reactant | HCl | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(2-morpholin-4-ylmethyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 65 mg, 35% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CN2CCOCC2 | C20H18FN3O3
